US04028410
A suspension of 1.11 mmole (0.205 g) of 1,3-bis(2-chloroethyl)urea in 8 ml methylene dichloride at -10° C. was saturated with dinitrogen trioxide in 20% excess of theoretical. The heterogeneous mixture gradually changed to a green homogeneous solution. The methylene dichloride was evaporated, and the residue was extracted with 3× 10 ml hexane. Evaporation of the hexane gave 0.1773 g of oil which was the crude BCNU (NSC 409962). The hexane insoluble portion, 0.0649 g, when treated with benzene, gave 0.020 g of 1,3-bis(2-chloroethyl)urea which was benzene insoluble. The benzene solubles were processed through a silica column (1× 10 cm) and 0.0245 g of crude BCNU was obtained. The combined fractions of crude product amounted to 0.2018 g (85.1%).

reactant | BCNU | C(CCl)NC(=O)N(CCCl)N=O | C5H9Cl2N3O2
reactant | hexane | CCCCCC | C6H14
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1,3-bis(2-chloroethyl)urea | 0.020 g | ClCCNC(=O)NCCCl | C5H10Cl2N2O
